US08278482B2
Benzyl 4-(4,4-difluoropiperidin-1-yl)-2-methylbutan-2-ylcarbamate
Crude 4-(4,4-difluoropiperidin-1-yl)-2-methylbutan-2-amine (6.56 g, 31.8 mmol) was dissolved into THF (100 mL). To this solution was added CbzOSu (7.93 g, 1 equiv, 31.8 mmol) in one portion. The reaction was left to stir at room temperature for 1 d. The solvent was removed and the residue was taken up in a mixture of ethyl acetate (150 mL) and water (100 mL). The layers were separated and the organic layer washed with 1 M sodium carbonate (2×50 mL), 1M HCl (50 mL), and brine (100 mL). The organic layer was dried over anhydrous MgSO4, filtered and concentrated to a colorless oil which solidified on standing. The crude solid was purified on an ISCO purification system with gradient elution from 0-6% methanol. The desired fractions were collected and concentrated to give a white solid (7.54 g, 69.7%). 1H NMR (CDCl3, 400 MHz): δ 1.35 (s, 6H), 1.68-1.72 (t, J=6.8, 4H), 1.92-2.05 (m, 4H), 2.16-2.20 (m, 2H), 2.48-2.52 (t, J=6.8, 4H), 2.53-2.58 (m, 4H), 5.04 (s, 2H), 6.70 (s, 1H), 7.27-7.40 (m, 5H). LRMS (ESI+) for C18H26F2N2O2 (340.1); Found: 341 (MH+).

reactant | 4-(4,4-difluoropiperidin-1-yl)-2-methylbutan-2-amine | 31.8 mmol, 6.56 g | FC1(CCN(CC1)CCC(C)(N)C)F | C10H20F2N2
reactant | CbzOSu | 31.8 mmol, 7.93 g, 1 equiv | C(=O)(OCC1=CC=CC=C1)ON1C(=O)CCC1=O | C12H11NO5
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Benzyl 4-(4,4-difluoropiperidin-1-yl)-2-methylbutan-2-ylcarbamate | 7.54 g, 69.7% | FC1(CCN(CC1)CCC(C)(C)NC(OCC1=CC=CC=C1)=O)F | C18H26F2N2O2
